US07723378B2
To a solution of diisopropylamine (11.02 g, 109 mmol) in THF (400 mL) is added n-butyl lithium (72.7 mL, 109 mmol, 1.5 M in pentane) at 0-5° C. The solution is cooled to −78° C. and a solution of 5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid methoxy-methyl-amide (23 g, 91 mmol) in THF (100 mL) is added. Upon complete addition, the mixture is stirred for 20 min at −78° C. before a solution of iodine (30 g, 119 mmol) in THF (100 mL) is added. Stirring is continued at −78° C. for 30 min. The reaction is quenched by slowly adding a 1:1 mixture of water/methanol (20 mL). The solution is diluted with water (400 mL) and extracted with diethyl ether (3×100 mL). The combined organic extracts are washed with 10% aq. citric acid solution and brine, dried over Na2SO4, filtered and evaporated. The crude product is purified by CC on silica gel eluting with DCM to afford 3-iodo-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid methoxy-methyl-amide (18 g) as a brownish oil; LC-MS: tR=1.09 min, [M+1]=380.21.

reactant | diisopropylamine | 109 mmol, 11.02 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 109 mmol, 1.5 M, 72.7 mL | C(CCC)[Li]
reactant | 5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid methoxy-methyl-amide | 91 mmol, 23 g | CON(C(=O)C=1SC=C2C1CCC(C2)(C)C)C | C13H19NO2S
reactant | iodine | 119 mmol, 30 g | II | I2
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-iodo-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid methoxy-methyl-amide | 18 g | CON(C(=O)C=1SC(=C2C1CCC(C2)(C)C)I)C | C13H18INO2S
